2130-12-27 06:42:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 MULTI LUMEN - START [**2130-12-26**] 02:51 PM
 INDWELLING PORT (PORTACATH) - START [**2130-12-26**] 02:52 PM
 NASAL SWAB - At [**2130-12-26**] 02:55 PM
 RECTAL SWAB - At [**2130-12-26**] 02:55 PM
 BLOOD CULTURED - At [**2130-12-26**] 03:10 PM
 PARACENTESIS - At [**2130-12-26**] 10:30 PM
   - Diagnostic paracentesis was performed by MICU team, paracentesis
   fluid sent for cultures.  R sided prior paracentesis site which was
   leaking peritoneal fluid was sutured successfully.
   - Patient had an episode of desaturation to 91% while being turned in
   bed, requiring increase in FIO2 from 40% to 50% with resolution fo
   desaturation.
   - Patient had an episode of tachypnea and desaturation to PO2 in the
   80's, and was given nebulizers with resolution of hypoxia.
   - Patient had CVP 3-4 and was given 1L NS
   - Patient had a 10 point Hct drop from 32 to 22, with CVP 3-4 and
   tachycardia.  He received 2 units PRBC.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2130-12-26**] 02:37 PM
   Vancomycin - [**2130-12-26**] 09:00 PM
   Infusions:
   Norepinephrine - 0.15 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2130-12-26**] 09:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2130-12-27**] 06:27 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 36.9
C (98.4
   HR: 107 (98 - 115) bpm
   BP: 101/54(65) {77/43(54) - 139/87(90)} mmHg
   RR: 27 (16 - 34) insp/min
   SpO2: 94%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 81.5 kg (admission): 82 kg
   Height: 68 Inch
    CVP: 3 (1 - 7)mmHg
   Total In:
                                                                  4,642 mL
                                                                  1,417 mL
   PO:
   TF:
   IVF:
                                                                    476 mL
                                                                    432 mL
   Blood products:
                                                                     66 mL
                                                                    925 mL
   Total out:
                                                                  3,090 mL
                                                                  2,528 mL
   Urine:
                                                                  1,090 mL
                                                                    378 mL
   NG:
   Stool:
                                                                    800 mL
   Drains:
                                                                  1,200 mL
   Balance:
                                                                  1,552 mL
                                                                 -1,111 mL
   Respiratory support
   O2 Delivery Device: High flow nasal cannula
   SpO2: 94%
   ABG: ///18/
   Physical Examination
   GEN: Cachectic, icteric, somnolent but responsive and interactive, mild
   respiratory distress.
   HEENT: Dry MM, exudates in OP
   CV: RR, tachy, no MRG
   PULM: Coarse rhonchorous breath sounds b/l, rales at bases b/l with L>R
   ABD: Distended, soft, diffusely tender without rebound or guiarding,
   ostomy bag on LLQ with minimal peritoneal fluid drainage, +BS
   Extr: Significant 2+ edema b/l, + asterixis
   NEURO: A&Ox1 to person
   Labs / Radiology
   45 K/uL
   7.1 g/dL
   113 mg/dL
   1.5 mg/dL
   18 mEq/L
   4.1 mEq/L
   60 mg/dL
   115 mEq/L
   150 mEq/L
   21.2 %
   7.2 K/uL
        [image002.jpg]
                            [**2130-12-21**]  02:37 AM
                            [**2130-12-21**]  10:18 AM
                            [**2130-12-21**]  02:32 PM
                            [**2130-12-22**]  03:30 AM
                            [**2130-12-22**]  12:34 PM
                            [**2130-12-22**]  02:33 PM
                             [**2130-12-26**]  02:02 PM
                             [**2130-12-26**]  11:10 PM
                             [**2130-12-27**]  04:00 AM
                             [**2130-12-27**]  05:20 AM
   WBC
   10.5
   7.0
   11.4
   16.4
   8.9
   7.2
   Hct
   32.8
   32.1
   29.7
   32.7
   22.1
   21.2
   Plt
   21
   21
   25
   37
   51
   45
   Cr
   0.7
   0.6
   0.6
   0.5
   0.5
   1.2
   1.4
   1.5
   TropT
   0.01
   Glucose
   145
   187
   176
   130
   [**Telephone/Fax (2) 9610**]3
   Other labs: PT / PTT / INR:26.2/47.0/2.5, CK / CKMB /
   Troponin-T:58/3/0.01, ALT / AST:166/262, Alk Phos / T Bili:145/7.6,
   Amylase / Lipase:18/9, Differential-Neuts:88.1 %, Lymph:6.5 %, Mono:3.8
   %, Eos:1.3 %, Lactic Acid:5.5 mmol/L, Albumin:2.2 g/dL, LDH:388 IU/L,
   Ca++:8.8 mg/dL, Mg++:2.1 mg/dL, PO4:5.4 mg/dL
   Fluid analysis / Other labs: [**12-26**] Peritoneal fluid analysis pending
   Imaging: [**12-26**] TTE:  Normal global and regional right ventricular
   systolic function. Hyperdynamic left ventricular function. Normal
   estimated pulmonary pressures
   [**12-26**] CXR:  Cardiac size is normal. Cardiomediastinal contours are
   normal. Bilateral central catheters remain in place. There is no
   enlarging pleural effusions.  Asymmetric ground-glass opacities greater
   on the left side have continuously improving on the right side, as
   previously mentioned the findings are partially due to pulmonary edema.
   Microbiology: [**2130-12-26**] 10:29 pm PERITONEAL FLUID      PERITONEAL FLUID.
      GRAM STAIN (Final [**2130-12-27**]):
         2+   (1-5 per 1000X FIELD):   POLYMORPHONUCLEAR LEUKOCYTES.
         NO MICROORGANISMS SEEN.
         This is a concentrated smear made by cytospin method, please
   refer to
         hematology for a quantitative white blood cell count..
      FLUID CULTURE (Preliminary):
      ANAEROBIC CULTURE (Preliminary):
   [**12-26**] C diff negative
   UCx pending
   BCx pending
   Assessment and Plan
 ELECTROLYTE & FLUID DISORDER, OTHER
 .H/O ALTERED MENTAL STATUS (NOT DELIRIUM)
 SHOCK, SEPTIC
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 2**])
 CONSTIPATION (OBSTIPATION, FOS)
 PLEURAL DISEASE, OTHER
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 ASCITES
   58M with a history of untreated HCV complicated by cirrhosis,
   esophageal cancer s/p cisplatin, 5FU, and XRT, and a prolonged
   admission for hypotension, respiratory distress, and general decline
   who was transfered back to the MICU for hypotension. Of note, over the
   past few days his WBC has been rising, his creatinine has been rising,
   and his Tbili has been rising. He is afebrile, but hypotensive. His
   abdomen is tender and his peritoneal fluid leak is concerning for a
   nidus of infection. He has a positive UA. Overall he appears to be
   going into sepsis again, either from SBP, urosepsis, or possibly PNA.
   .
   # Drop in Hematocrit:  Possibly [**2-27**] occult hemorrhage, though no
   apparent source or inciting event.  Given paracentesis in the setting
   of coagulopathy and high risk of bleed, will investigate
   abdominal/pelvic sources of bleed.
   - Abdominal ultrasound to r/o bleed
   - Peripheral smear
   - Fibrinogen level to determine if pt needs cryoprecipitate
   - Trend PM hct
   - DAT (Coombs test) to r/o hemolysis
   .
   # Hypotension: The likely cause here is sepsis. The source is likely
   urosepsis or peritonitis or PNA. His ECHO is not consistent with a
   cariogenic cause or PE. He is intravascularly volume depleted.
   - Administer Albumin for low CVP (goal ~10); hold on fluids for now to
   minimize third spacing
   - Levophed titrated to MAP > 65
   - Treat sepsis as below
   .
   # Sepsis: Pt has climbing WBC, abdominal pain, worsening renal and
   hepatic function, and a positive UA. All of this points to sepsis
   leading to hepatic decompensation. CXR relatively unchanged.
   - BCx, Ucx, sputum cx, peritoneal fluid cx pending
   - Cdiff toxin assay pending given diarrhea - but likely due to
   lactulose diarrhea
   - Diagnostic paracentesis done. Awaiting results. Will treat as
   appropriate.
   - Continue Vancomycin 1000 mg IV Q 12H D1 [**2130-12-26**] with trough level
   before fourth dose for Gram positive coverage
   - Continue CefePIME 2 g IV Q24H for Gram negative coverage
   - Place a-line today for acccess
   .
   # Acute renal insufficiency: Likely related to a combination of
   hypotension and splanchnic vasodilation due to liver disease.
   - Albumin given
   - Treat SBP as appropriate
   - Maintain MAP > 65 with pressors and fluids as needed
   - Ulytes pending
   - Consider octreotide for HRS if low urine Na
   .
   # Hypoxia: Improved with diuresis overnight by report. On 60% FM
   intially, but weaned quickly to 40% FM. Tachnypneic to 30 at times.
   - Continue 40% FM
   - Most recent ABG 7.36/36/102
   - Avoid excessive fluids as this seems to have exacerbated hypoxia
   earlier
   - Treat infection as above
   - PE unlikely given ECHO
   .
   # Coagulopathy: Likely related to underlying liver disease and
   underproduction of coagulation factors.
   - Follow INR; INR goal 2 given risk of bleed and acute drop in Hct.
   FFP as needed to maintain goal INR
   - Replete with FFP if bleeding or if INR <2 as above
   .
   # Peritoneal fluid leak in RLQ: Sutured to slow flow
   .
   # Cirrhosis: Secondary to HCV. MELD of 29.
   - Continue Lactulose 45 mL PO/NG TID
   - Continue Rifaximin 400 mg PO/NG TID
   .
   # Thombocytopenia: Consistent with underproduction of thrombopoeitin
   from cirrhosis
   - Transfuse for active bleeding or PLT<10
   - Giving PLT for diagnostic para
   .
   # Esophageal cancer: Not clearly contributing to present illness, but
   overall carries a poor prognosis. Unclear if recurred. No recent
   staging studies. Will address as appropriate
   .
   # FEN: replete electrolytes PRN, nutrition consult pending
   # Prophy: pneumoboots, type and screen, PPI [**Hospital1 **]
   # Code status: Full Code
   # Communication: Patient; brother is health care proxy; Sister [**Name (NI) 2307**]
   [**Telephone/Fax (1) 9607**]
   # Dispo: pending clinical stability, ICU for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2130-12-26**] 02:51 PM
   Indwelling Port (PortaCath) - [**2130-12-26**] 02:52 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2130-12-27 09:12:00 Physician Attending Progress Note
Chief Complaint: HOTN
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   58 yo man with HCV cirrhosis, recurrent admissions to MICU for HOTN.
   Had diagnostic paracentesis
   overnight.  Episodic hypoxemia overnight.  CVP has been low at 3-4.
   Got 1L NS. Hct dropped
   from 32-22 so he got 2U of PRBCs.
   24 Hour Events:
 MULTI LUMEN - START [**2130-12-26**] 02:51 PM
 INDWELLING PORT (PORTACATH) - START [**2130-12-26**] 02:52 PM
 NASAL SWAB - At [**2130-12-26**] 02:55 PM
 RECTAL SWAB - At [**2130-12-26**] 02:55 PM
 BLOOD CULTURED - At [**2130-12-26**] 03:10 PM
 PARACENTESIS - At [**2130-12-26**] 10:30 PM
   performed by MICU team, paracentesis fluid sent for cultures
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2130-12-26**] 02:37 PM
   Vancomycin - [**2130-12-27**] 08:01 AM
   Infusions:
   Norepinephrine - 0.15 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2130-12-27**] 08:01 AM
   Other medications:
   lactulose
   SSI
   rifaxamin
   erythromycin
   mexelitine
   morphine
   simethicone
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2130-12-27**] 09:12 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 36.2
C (97.2
   HR: 101 (98 - 115) bpm
   BP: 117/61(75) {77/43(54) - 139/87(90)} mmHg
   RR: 24 (16 - 35) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 81.5 kg (admission): 82 kg
   Height: 68 Inch
   CVP: 4 (1 - 7)mmHg
   Total In:
                                                                  4,642 mL
                                                                  2,637 mL
   PO:
   TF:
   IVF:
                                                                    476 mL
                                                                    843 mL
   Blood products:
                                                                     66 mL
                                                                  1,613 mL
   Total out:
                                                                  3,090 mL
                                                                  2,648 mL
   Urine:
                                                                  1,090 mL
                                                                    498 mL
   NG:
   Stool:
                                                                    800 mL
   Drains:
                                                                  1,200 mL
   Balance:
                                                                  1,552 mL
                                                                    -11 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 96%
   ABG: ///18/
   Physical Examination
   General Appearance: Thin
   Eyes / Conjunctiva: PERRL, icteric
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : bibasilar L>R)
   Abdominal: Soft, Non-tender, Distended
   Extremities: Right lower extremity edema: 3+, Left lower extremity
   edema: 3+
   Skin:  Warm, Jaundice
   Neurologic: No(t) Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): A and O to name only, Movement: Not assessed,
   Tone: Not assessed, +asteriskis
   Labs / Radiology
   7.1 g/dL
   45 K/uL
   113 mg/dL
   1.5 mg/dL
   18 mEq/L
   4.1 mEq/L
   60 mg/dL
   115 mEq/L
   150 mEq/L
   21.2 %
   7.2 K/uL
        [image002.jpg]
                            [**2130-12-21**]  02:37 AM
                            [**2130-12-21**]  10:18 AM
                            [**2130-12-21**]  02:32 PM
                            [**2130-12-22**]  03:30 AM
                            [**2130-12-22**]  12:34 PM
                            [**2130-12-22**]  02:33 PM
                             [**2130-12-26**]  02:02 PM
                             [**2130-12-26**]  11:10 PM
                             [**2130-12-27**]  04:00 AM
                             [**2130-12-27**]  05:20 AM
   WBC
   10.5
   7.0
   11.4
   16.4
   8.9
   7.2
   Hct
   32.8
   32.1
   29.7
   32.7
   22.1
   21.2
   Plt
   21
   21
   25
   37
   51
   45
   Cr
   0.7
   0.6
   0.6
   0.5
   0.5
   1.2
   1.4
   1.5
   TropT
   0.01
   Glucose
   145
   187
   176
   130
   [**Telephone/Fax (2) 9610**]3
   Other labs: PT / PTT / INR:26.2/47.0/2.5, CK / CKMB /
   Troponin-T:58/3/0.01, ALT / AST:166/262, Alk Phos / T Bili:145/7.6,
   Amylase / Lipase:18/9, Differential-Neuts:88.1 %, Lymph:6.5 %, Mono:3.8
   %, Eos:1.3 %, Lactic Acid:5.5 mmol/L, Albumin:2.2 g/dL, LDH:388 IU/L,
   Ca++:8.8 mg/dL, Mg++:2.1 mg/dL, PO4:5.4 mg/dL
   Fluid analysis / Other labs: paracentesis: 112 WBC
   Assessment and Plan
 ELECTROLYTE & FLUID DISORDER, OTHER
 .H/O ALTERED MENTAL STATUS (NOT DELIRIUM)
 SHOCK, SEPTIC
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 2**])
 CONSTIPATION (OBSTIPATION, FOS)
 PLEURAL DISEASE, OTHER
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 ASCITES
   Hemorrhage:  10 pt drop in Hct.  Concern about bleeding.  Unclear
   source of bleed.  No evidence of GIB. [**Month (only) 11**] not tolerate
   CT at this point.  Will get Abd u/s to r/o intraperitoneal bleed.
   Septic Shock:  Add stress dose steroids.  Continue levophed.  Continue
   albumin.
    - No evidence of SBP
   coagulopathy:  If continues to bleed, continue FFP.  check fibronogen
   will organize family meeting today to address goals of care.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2130-12-26**] 02:51 PM
   Indwelling Port (PortaCath) - [**2130-12-26**] 02:52 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2130-12-28 07:40:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: hypotension with concern of sepsis
   24 Hour Events:
   - cosyntropin test 19 to 24 to 26; continuing on stress dose steroids
   for now, but should readdress on rounds this morning
   - BP held stable
   - Hct bumped 21 to 30 and held
   - f/u with family on [**12-28**], they will try to come in and be amenable to
   talking then
   - Abd U/S: ascites without change; no obvious bleed but CT would be
   better study; left pleural effusion
   - hepatology: replete free water, and fractionate bilirubin
   - hyperNa, hypoK. giving 40K IV, then D5W with 40K at 100cc/hour x 1L
   - ordered for 730AM recheck of chem panel
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2130-12-27**] 02:05 PM
   Vancomycin - [**2130-12-27**] 08:00 PM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2130-12-27**] 04:25 PM
   Pantoprazole (Protonix) - [**2130-12-27**] 08:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2130-12-28**] 07:31 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.4
C (97.6
   HR: 98 (83 - 105) bpm
   BP: 120/67(80) {100/54(66) - 123/70(80)} mmHg
   RR: 29 (17 - 32) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 76.2 kg (admission): 82 kg
   Height: 68 Inch
    CVP: 7 (0 - 7)mmHg
   Total In:
                                                                  4,689 mL
                                                                    555 mL
   PO:
   TF:
   IVF:
                                                                  2,596 mL
                                                                    375 mL
   Blood products:
                                                                  1,613 mL
   Total out:
                                                                  5,328 mL
                                                                    780 mL
   Urine:
                                                                  1,978 mL
                                                                    580 mL
   NG:
   Stool:
   Drains:
                                                                    400 mL
   Balance:
                                                                   -639 mL
                                                                   -225 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 95%
   ABG: ///22/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   26 K/uL
   10.7 g/dL
   149 mg/dL
   1.0 mg/dL
   22 mEq/L
   3.0 mEq/L
   60 mg/dL
   121 mEq/L
   153 mEq/L
   32.1 %
   4.7 K/uL
        [image002.jpg]
                            [**2130-12-22**]  03:30 AM
                            [**2130-12-22**]  12:34 PM
                            [**2130-12-22**]  02:33 PM
                             [**2130-12-26**]  02:02 PM
                             [**2130-12-26**]  11:10 PM
                             [**2130-12-27**]  04:00 AM
                             [**2130-12-27**]  05:20 AM
                             [**2130-12-27**]  09:13 AM
                             [**2130-12-27**]  03:54 PM
                             [**2130-12-28**]  02:39 AM
   WBC
   7.0
   11.4
   16.4
   8.9
   7.2
   4.7
   Hct
   32.1
   29.7
   32.7
   22.1
   21.2
   30.7
   30.7
   32.1
   Plt
   21
   25
   37
   51
   45
   26
   Cr
   0.5
   0.5
   1.2
   1.4
   1.5
   1.0
   TropT
   0.01
   Glucose
   130
   207
   131
   93
   113
   149
   Other labs: PT / PTT / INR:33.1/47.7/3.3, CK / CKMB /
   Troponin-T:58/3/0.01, ALT / AST:268/313, Alk Phos / T Bili:158/7.4,
   Amylase / Lipase:18/9, Differential-Neuts:88.1 %, Lymph:6.5 %, Mono:3.8
   %, Eos:1.3 %, Fibrinogen:146 mg/dL, Lactic Acid:5.5 mmol/L, Albumin:2.2
   g/dL, LDH:393 IU/L, Ca++:8.9 mg/dL, Mg++:2.0 mg/dL, PO4:3.4 mg/dL
   Fibrinogen 146
   Imaging: [**12-27**] CXR
   Asymmetric ground-glass opacities greater on the left side have
   continuously
   improving on the right side, as previously mentioned the findings are
   partially due to pulmonary edema
   Abdominal u/s [**12-27**]
   IMPRESSION:
   1. Moderate-to-large amount of ascites is identified, without
   significant
   interval change since prior ultrasound [**2130-12-24**].
   2. No obvious debris within the ascites to suggest recent
   intraperitoneal
   hemorrhage. However, if there is clinical concern of hemorrhage and/or
   perforation, cross-sectional imaging with CT should be considered.
   3. A left basal pleural effusion is seen.
   Microbiology: NTD
   Assessment and Plan
   58M with a history of untreated HCV complicated by cirrhosis,
   esophageal cancer s/p cisplatin, 5FU, and XRT, and a prolonged
   admission for hypotension, respiratory distress, and general decline
   who was transfered back to the MICU for hypotension. Of note, over the
   past few days his WBC has been rising, his creatinine has been rising,
   and his Tbili has been rising. He is afebrile, but hypotensive. His
   abdomen is tender and his peritoneal fluid leak is concerning for a
   nidus of infection. He has a positive UA. Overall he appears to be
   going into sepsis again, either from SBP, urosepsis, or possibly PNA.
   .
   # Drop in Hematocrit:  Possibly [**2-27**] occult hemorrhage, though no
   apparent source or inciting event.  Given paracentesis in the setting
   of coagulopathy and high risk of bleed, will investigate
   abdominal/pelvic sources of bleed.  Hct increased and is stable at 32
   this morning.  Peripheral smear normal.  Fibrinogen >100
   - Trend PM hct
   - DAT (Coombs test) to r/o hemolysis
   .
   # Hypotension: The likely cause here is sepsis. The source is likely
   urosepsis or peritonitis or PNA. His ECHO is not consistent with a
   cariogenic cause or PE. He is intravascularly volume depleted.
   - Administer Albumin for low CVP (goal ~10); will get paracentesis and
   then albumin after.
   - d/c levophed
   - Treat sepsis as below
   .
   # Sepsis: Pt has climbing WBC, abdominal pain, worsening renal and
   hepatic function, and a positive UA. All of this points to sepsis
   leading to hepatic decompensation. CXR relatively unchanged.
   - BCx, Ucx, sputum cx, peritoneal fluid cx pending
   - Cdiff toxin assay pending given diarrhea - but likely due to
   lactulose diarrhea
   - Diagnostic paracentesis done. Awaiting results. Will treat as
   appropriate.
   - Continue Vancomycin 1000 mg IV Q 12H D1 [**2130-12-26**] with trough level
   tomorrow morning.  This morning dose was held d/t high vancomycin, but
   this patient has improved renal function so will wait to change dosing
   based on tomorrow
s trough
   - Continue CefePIME 2 g IV Q24H for Gram negative coverage
   .
   # Acute renal insufficiency: Likely related to a combination of
   hypotension and splanchnic vasodilation due to liver disease.
   - Albumin given
   - Treat SBP as appropriate
   - Maintain MAP > 65 with pressors and fluids as needed
   - Ulytes pending
   - Consider octreotide for HRS if low urine Na
   .
   # Hypoxia: Improved with diuresis overnight by report. On 60% FM
   intially, but weaned quickly to 40% FM. Tachnypneic to 30 at times.
   - Continue 40% FM
   - Most recent ABG 7.36/36/102
   - Avoid excessive fluids as this seems to have exacerbated hypoxia
   earlier
   - Treat infection as above
   - PE unlikely given ECHO
   .
   # Coagulopathy: Likely related to underlying liver disease and
   underproduction of coagulation factors.
   - Give platelets and FFP before paracentesis today
   - Follow INR; INR goal 2 given risk of bleed and acute drop in Hct.
   FFP as needed to maintain goal INR
   - Replete with FFP if bleeding or if INR <2 as above
   .
   # Peritoneal fluid leak in RLQ: Sutured to slow flow
   .
   # Cirrhosis: Secondary to HCV. MELD of 29.
   - Continue Lactulose 45 mL PO/NG TID
   - Continue Rifaximin 400 mg PO/NG TID
   .
   # Thombocytopenia: Consistent with underproduction of thrombopoeitin
   from cirrhosis
   - Transfuse for active bleeding or PLT<10
   - Giving PLT for diagnostic para
   .
   # Esophageal cancer: Not clearly contributing to present illness, but
   overall carries a poor prognosis. Unclear if recurred. No recent
   staging studies. Will address as appropriate
   .
   # FEN: replete electrolytes PRN, start tube feeds again today and
   change with recs.
   # Prophy: pneumoboots, type and screen, PPI [**Hospital1 **]
   # Code status: Full Code
   # Communication: Patient; brother is health care proxy; Sister [**Name (NI) 2307**]
   [**Telephone/Fax (1) 9607**]
   # Dispo: pending clinical stability, ICU for now

2130-12-28 11:45:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   58 yo man with end stage cirrhosis and esophageal CA.  Admitted to MICU
   with recurrent hypotension and respiratory distress.
   24 Hour Events:
 ULTRASOUND - At [**2130-12-27**] 10:31 AM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2130-12-27**] 02:05 PM
   Vancomycin - [**2130-12-27**] 08:00 PM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2130-12-27**] 04:25 PM
   Pantoprazole (Protonix) - [**2130-12-28**] 08:36 AM
   Other medications:
   nystatin
   lactulose
   protonix
   rifaxamin
   hydrocort 50mg q6h
   erythro ointment
   mexilitine
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2130-12-28**] 11:45 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.1
C (96.9
   HR: 97 (83 - 103) bpm
   BP: 121/70(82) {100/54(66) - 130/72(86)} mmHg
   RR: 11 (11 - 32) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 76.2 kg (admission): 82 kg
   Height: 68 Inch
   CVP: 2 (0 - 7)mmHg
   Total In:
                                                                  4,689 mL
                                                                  1,292 mL
   PO:
   TF:
   IVF:
                                                                  2,596 mL
                                                                    934 mL
   Blood products:
                                                                  1,613 mL
   Total out:
                                                                  5,328 mL
                                                                    975 mL
   Urine:
                                                                  1,978 mL
                                                                    775 mL
   NG:
   Stool:
   Drains:
                                                                    400 mL
   Balance:
                                                                   -639 mL
                                                                    319 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 99%
   ABG: ///23/
   Physical Examination
   General Appearance: moderate distress
   Eyes / Conjunctiva: PERRL, icteric
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Rhonchorous: b/l), coarse breath
   sounds b/l
   Abdominal: Distended
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   10.7 g/dL
   26 K/uL
   162 mg/dL
   1.1 mg/dL
   23 mEq/L
   3.5 mEq/L
   61 mg/dL
   121 mEq/L
   153 mEq/L
   32.1 %
   4.7 K/uL
        [image002.jpg]
                            [**2130-12-22**]  12:34 PM
                            [**2130-12-22**]  02:33 PM
                             [**2130-12-26**]  02:02 PM
                             [**2130-12-26**]  11:10 PM
                             [**2130-12-27**]  04:00 AM
                             [**2130-12-27**]  05:20 AM
                             [**2130-12-27**]  09:13 AM
                             [**2130-12-27**]  03:54 PM
                             [**2130-12-28**]  02:39 AM
                             [**2130-12-28**]  07:49 AM
   WBC
   11.4
   16.4
   8.9
   7.2
   4.7
   Hct
   29.7
   32.7
   22.1
   21.2
   30.7
   30.7
   32.1
   Plt
   25
   37
   51
   45
   26
   Cr
   0.5
   1.2
   1.4
   1.5
   1.0
   1.1
   TropT
   0.01
   Glucose
   [**Telephone/Fax (2) 9610**]3
   149
   162
   Other labs: PT / PTT / INR:33.1/47.7/3.3, CK / CKMB /
   Troponin-T:58/3/0.01, ALT / AST:268/313, Alk Phos / T Bili:158/7.4,
   Amylase / Lipase:18/9, Differential-Neuts:88.1 %, Lymph:6.5 %, Mono:3.8
   %, Eos:1.3 %, Fibrinogen:146 mg/dL, Lactic Acid:5.5 mmol/L, Albumin:2.2
   g/dL, LDH:393 IU/L, Ca++:9.0 mg/dL, Mg++:2.0 mg/dL, PO4:3.4 mg/dL
   Microbiology: ascites negative
   Assessment and Plan
 AEROBIC CAPACITY / ENDURANCE, IMPAIRED
 AIRWAY CLEARANCE, IMPAIRED
 VENTILATION, IMPAIRED
 TRANSFERS, IMPAIRED
 RESPIRATION / GAS EXCHANGE, IMPAIRED
 MUSCLE PERFORMACE, IMPAIRED
 BALANCE, IMPAIRED
 ELECTROLYTE & FLUID DISORDER, OTHER
 .H/O ALTERED MENTAL STATUS (NOT DELIRIUM)
 SHOCK, SEPTIC
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 2**])
 CONSTIPATION (OBSTIPATION, FOS)
 PLEURAL DISEASE, OTHER
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 ASCITES
   Respiratory distress:  Very weak, poor secretion clearance.
   HOTN/sepsis:  improved, off pressors.  Continue antibiotics.
   ascites:  will try and remove a few liters for comfort. and replace
   albumin.
   will try and contact son and discuss goals of care.
   Patient is clearlly distressed, on discomfort and prognosis is very
   poor, with little hope of significant recovery given
   the severity of his liver disease, cancer, and generalized
   debilitation.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2130-12-26**] 02:51 PM
   Indwelling Port (PortaCath) - [**2130-12-26**] 02:52 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill
   ------ Protected Section ------
   Spoke with patient
s brother [**Name (NI) 7471**] [**Name (NI) 413**] on the telephone.
   Explained to him the [**Known firstname 4883**] is doing poorly.  He has had recurrent
   hypotension, and recurrent infections and difficulty breathing.  These
   are caused by his underlying severe liver disease and general
   dehabilitation from the liver disease and the cancer.  He has reached a
   point where the chances of him ever leaving the hospital are extremely
   small, and given the large amount of discomfort and suffering that he
   is enduring, the patient may not want further aggressive care.  Given
   that [**Known firstname 4883**] is encephalopathic, we are asking, [**Doctor First Name 7471**], his HCP if he
   thinks that [**Name (NI) 4883**] would want us to proceed with aggressive care.
   [**Doctor First Name 7471**] states that he would like to come in and discuss this and see
   his brother, but in the mean time, [**Name (NI) 4883**] should be DNR/DNI.  Patient
   nurse [**Doctor First Name 790**] also heard [**Doctor First Name 7471**] state that  the patient should be
   DNR/DNI.
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Name8 (MD) 1065**], MD
   on:[**2130-12-28**] 14:18 ------

2130-12-29 06:50:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   Patient made DNR/DNI. Plan to go home with hospice today. Will go to
   brother
s home ([**Location (un) 9661**], [**Location (un) 4640**], MA) with brother and
   sister-in-law who will be there continuously.
   Continued antibiotics and morphine only; other medications
   discontinued.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2130-12-28**] 02:00 PM
   Vancomycin - [**2130-12-28**] 08:00 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2130-12-28**] 08:36 AM
   Morphine Sulfate - [**2130-12-29**] 04:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2130-12-29**] 06:49 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.1
C (96.9
   Tcurrent: 35.9
C (96.6
   HR: 100 (81 - 100) bpm
   BP: 124/67(80) {108/62(76) - 141/80(93)} mmHg
   RR: 34 (11 - 37) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 76.2 kg (admission): 82 kg
   Height: 68 Inch
    CVP: 1 (-2 - 9)mmHg
   Total In:
                                                                  3,613 mL
                                                                    102 mL
   PO:
   TF:
                                                                    105 mL
                                                                    102 mL
   IVF:
                                                                  1,735 mL
   Blood products:
                                                                    813 mL
   Total out:
                                                                  2,265 mL
                                                                    520 mL
   Urine:
                                                                  1,315 mL
                                                                    345 mL
   NG:
   Stool:
   Drains:
                                                                    200 mL
                                                                    175 mL
   Balance:
                                                                  1,348 mL
                                                                   -418 mL
   Respiratory support
   O2 Delivery Device: Venti mask , High flow neb, Aerosol-cool
   SpO2: 95%
   ABG: ///20/
   Physical Examination
   GEN: NAD, back ache (resolved after morphine increase), no SOB or other
   pain/discomfort endorsed. Brother at bedside. Cachectic.
   CV: II/VI SEM, RRR
   PULM: Rhonchi b/l
   ABD: +BS, soft, NT
   EXTR: 2+ DP edema
   Labs / Radiology
   54 K/uL
   10.7 g/dL
   162 mg/dL
   0.9 mg/dL
   20 mEq/L
   3.4 mEq/L
   61 mg/dL
   121 mEq/L
   154 mEq/L
   32.1 %
   4.7 K/uL
        [image002.jpg]
                            [**2130-12-22**]  02:33 PM
                             [**2130-12-26**]  02:02 PM
                             [**2130-12-26**]  11:10 PM
                             [**2130-12-27**]  04:00 AM
                             [**2130-12-27**]  05:20 AM
                             [**2130-12-27**]  09:13 AM
                             [**2130-12-27**]  03:54 PM
                             [**2130-12-28**]  02:39 AM
                             [**2130-12-28**]  07:49 AM
                             [**2130-12-28**]  03:37 PM
   WBC
   11.4
   16.4
   8.9
   7.2
   4.7
   Hct
   29.7
   32.7
   22.1
   21.2
   30.7
   30.7
   32.1
   Plt
   25
   37
   51
   45
   26
   54
   Cr
   0.5
   1.2
   1.4
   1.5
   1.0
   1.1
   0.9
   Glucose
   [**Telephone/Fax (2) 9610**]3
   149
   162
   Other labs: PT / PTT / INR:33.1/47.7/3.3, CK / CKMB /
   Troponin-T:58/3/0.01, ALT / AST:268/313, Alk Phos / T Bili:158/7.4,
   Amylase / Lipase:18/9, Differential-Neuts:88.1 %, Lymph:6.5 %, Mono:3.8
   %, Eos:1.3 %, Fibrinogen:146 mg/dL, Lactic Acid:5.5 mmol/L, Albumin:2.2
   g/dL, LDH:393 IU/L, Ca++:9.0 mg/dL, Mg++:2.0 mg/dL, PO4:3.4 mg/dL
   Assessment and Plan
   Plan: home with hospice today
   - d/c antibiotics
   - morphine prn and gtt as needed
   - consult palliative care
   - f/u social work
   - offer supportive care to patient and family
   - change IV steroids to PO and taper
   - scopolamine patch PRN
   - d/c tube feeds
   - continue IJ, foley, rectal tube, for patient and family comfort
   - morphine SL prn
   - orchestrate move from hospital to home
   - DNR, DNI
 AEROBIC CAPACITY / ENDURANCE, IMPAIRED
 AIRWAY CLEARANCE, IMPAIRED
 VENTILATION, IMPAIRED
 TRANSFERS, IMPAIRED
 RESPIRATION / GAS EXCHANGE, IMPAIRED
 MUSCLE PERFORMACE, IMPAIRED
 BALANCE, IMPAIRED
 ELECTROLYTE & FLUID DISORDER, OTHER
 .H/O ALTERED MENTAL STATUS (NOT DELIRIUM)
 SHOCK, SEPTIC
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 2**])
 CONSTIPATION (OBSTIPATION, FOS)
 PLEURAL DISEASE, OTHER
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 ASCITES
   ICU Care
   Nutrition:
   Peptamen 1.5 (Full) - [**2130-12-28**] 05:00 PM 15 mL/hour - DISCONTINUE
   Glycemic Control:
   Lines:
   Multi Lumen - [**2130-12-26**] 02:51 PM
   Indwelling Port (PortaCath) - [**2130-12-26**] 02:52 PM

2130-12-29 10:00:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   58 yo man with end stage cirrhosis, esophageal CA.  Family meeting
   yesterday.  Patient to go home with hospice.  Patient is awake, denies
   pain.
   24 Hour Events:
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2130-12-28**] 02:00 PM
   Vancomycin - [**2130-12-29**] 08:00 AM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2130-12-29**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2130-12-29**] 09:59 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36
C (96.8
   Tcurrent: 36
C (96.8
   HR: 97 (81 - 109) bpm
   BP: 116/71(82) {116/62(79) - 156/80(93)} mmHg
   RR: 24 (11 - 37) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 76.2 kg (admission): 82 kg
   Height: 68 Inch
   CVP: 3 (-6 - 9)mmHg
   Total In:
                                                                  3,613 mL
                                                                    335 mL
   PO:
   TF:
                                                                    105 mL
                                                                    135 mL
   IVF:
                                                                  1,735 mL
                                                                    200 mL
   Blood products:
                                                                    813 mL
   Total out:
                                                                  2,265 mL
                                                                  1,170 mL
   Urine:
                                                                  1,315 mL
                                                                    545 mL
   NG:
   Stool:
   Drains:
                                                                    200 mL
                                                                    175 mL
   Balance:
                                                                  1,348 mL
                                                                   -835 mL
   Respiratory support
   O2 Delivery Device: Venti mask , High flow neb, Aerosol-cool
   SpO2: 93%
   ABG: ///20/
   Physical Examination
   General Appearance: moderate distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : coarse crackles,
   Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   10.7 g/dL
   54 K/uL
   162 mg/dL
   0.9 mg/dL
   20 mEq/L
   3.4 mEq/L
   61 mg/dL
   121 mEq/L
   154 mEq/L
   32.1 %
   4.7 K/uL
        [image002.jpg]
                            [**2130-12-22**]  02:33 PM
                             [**2130-12-26**]  02:02 PM
                             [**2130-12-26**]  11:10 PM
                             [**2130-12-27**]  04:00 AM
                             [**2130-12-27**]  05:20 AM
                             [**2130-12-27**]  09:13 AM
                             [**2130-12-27**]  03:54 PM
                             [**2130-12-28**]  02:39 AM
                             [**2130-12-28**]  07:49 AM
                             [**2130-12-28**]  03:37 PM
   WBC
   11.4
   16.4
   8.9
   7.2
   4.7
   Hct
   29.7
   32.7
   22.1
   21.2
   30.7
   30.7
   32.1
   Plt
   25
   37
   51
   45
   26
   54
   Cr
   0.5
   1.2
   1.4
   1.5
   1.0
   1.1
   0.9
   Glucose
   [**Telephone/Fax (2) 9610**]3
   149
   162
   Other labs: PT / PTT / INR:33.1/47.7/3.3, CK / CKMB /
   Troponin-T:58/3/0.01, ALT / AST:268/313, Alk Phos / T Bili:158/7.4,
   Amylase / Lipase:18/9, Differential-Neuts:88.1 %, Lymph:6.5 %, Mono:3.8
   %, Eos:1.3 %, Fibrinogen:146 mg/dL, Lactic Acid:5.5 mmol/L, Albumin:2.2
   g/dL, LDH:393 IU/L, Ca++:9.0 mg/dL, Mg++:2.0 mg/dL, PO4:3.4 mg/dL
   Assessment and Plan
 [**Last Name **] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 AEROBIC CAPACITY / ENDURANCE, IMPAIRED
 AIRWAY CLEARANCE, IMPAIRED
 VENTILATION, IMPAIRED
 TRANSFERS, IMPAIRED
 RESPIRATION / GAS EXCHANGE, IMPAIRED
 MUSCLE PERFORMACE, IMPAIRED
 BALANCE, IMPAIRED
 ELECTROLYTE & FLUID DISORDER, OTHER
 .H/O ALTERED MENTAL STATUS (NOT DELIRIUM)
 SHOCK, SEPTIC
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 2**])
 CONSTIPATION (OBSTIPATION, FOS)
 PLEURAL DISEASE, OTHER
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 ASCITES
   Patient would like to go home for hospice with the knowledge that he
   may not make it home.
   Will consult palliative care.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2130-12-26**] 02:51 PM
   Indwelling Port (PortaCath) - [**2130-12-26**] 02:52 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :D/C Home
   Total time spent: 35 minutes
   Patient is critically ill